US05514773
To suspension solution of O-methyl-3-nitro-L-tyrosine.hydrochloride(4.93 g) in 6N aqueous hydrochloric acidwas added under ice-cooling, sodium nitrite (1.97 g) and was stirredat the same temperature for 1 and 1/2 hour and further at roomtemperature for 3 hours. The resultant suspension solution wasextracted with ethyl acetate (50 ml×3). After the ethyl acetate layerwas washed with saturated brine, dried over anhydrous sodiumsulfate. The solvent was evaporated in vacuo to give (S)-2-chloro-3-(4-methoxy-3-nitrophenyl)propionicacid (4.46 g).

reactant | O-methyl-3-nitro-L-tyrosine.hydrochloride | 4.93 g | Cl.COC1=C(C=C(C[C@H](N)C(=O)O)C=C1)[N+](=O)[O-]
reactant | sodium nitrite | 1.97 g | N(=O)[O-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-chloro-3-(4-methoxy-3-nitrophenyl)propionicacid | 4.46 g | Cl[C@H](C(=O)O)CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C10H10ClNO5
